US04665090
Step A: Preparation of N-(2-(2-thienyl)ethyl) phthalimide
N-Carboethoxyphthalimide (4.93 g, 22.5 mmol) was added to a solution of 2-(2-thienyl)ethylamine (2.75 g, 21.6 mmol) in ethanol (20 ml) and was stirred for 20-25 hours. The precipitated product was collected by filtration, washed with cold methanol and dried. The product obtained (5.45 g) was used in the next step without purification.

reactant | N-Carboethoxyphthalimide | 22.5 mmol, 4.93 g | C(=O)(OCC)N1C(C=2C(C1=O)=CC=CC2)=O | C11H9NO4
reactant | 2-(2-thienyl)ethylamine | 21.6 mmol, 2.75 g | S1C(=CC=C1)CCN | C6H9NS
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | N-(2-(2-thienyl)ethyl) phthalimide | S1C(=CC=C1)CCN1C(C=2C(C1=O)=CC=CC2)=O | C14H11NO2S
